US09062015B2
FS104: 4-[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester
The preparation is carried out analogously to FS 103 starting from 4-(4-chloropyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (preparation analogous to US 2005/176722) and 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane.

reactant | 4-(4-chloropyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC(=N1)Cl | C13H19ClN4O2
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
product | 4-[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC(=N1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C27H38N4O2
